US07109192B2
4g) 5-benzyl-3-(but-2-ynyl)-2-methylsulphonyl-3,5-dihydro-imidazo[4,5-c]pyridin-4-one
A solution of 316 mg (2.0 mmol) of potassium permanganate in 10 ml of water was slowly added dropwise with stirring to a solution of 400 mg (1.24 mmol) of 5-benzyl-3-(but-2-ynyl)-2-methylsulphanyl-3,5-dihydro-imidazo[4,5-c]pyridin-4-one in 10 ml of concentrated acetic acid. After three hours at ambient temperature 400 mg of sodium bisulphite (Na2S2O5) were added and the mixture was diluted with approx. 30 ml of water. It was extracted five times with 30 ml of dichloromethane, the extracts were dried over sodium sulphate and evaporated down. The product thus obtained was further reacted without purification.

reactant | potassium permanganate | 2.0 mmol, 316 mg | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 5-benzyl-3-(but-2-ynyl)-2-methylsulphanyl-3,5-dihydro-imidazo[4,5-c]pyridin-4-one | 1.24 mmol, 400 mg | C(C1=CC=CC=C1)N1C(C2=C(C=C1)N=C(N2CC#CC)SC)=O | C18H17N3OS
reactant | sodium bisulphite | 400 mg | S([O-])(O)=O.[Na+]
reactant | water | 10 ml | O | H2O
reactant | water | approx. 30 ml | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 5-benzyl-3-(but-2-ynyl)-2-methylsulphonyl-3,5-dihydro-imidazo[4,5-c]pyridin-4-one | C(C1=CC=CC=C1)N1C(C2=C(C=C1)N=C(N2CC#CC)S(=O)(=O)C)=O | C18H17N3O3S
